US03954766
2-(2-Chloroethyl)piperazine dihydrochloride
(E. F. Rogers and H. J. Becker, U.S. Pat. No. 3,281,423 (1966).) To 25.0 g (0.192 mol) of 2-(2-hydroxyethyl)piperazine, chilled in dry ice, 125 ml SOCl2 was cautiously added dropwise. After addition was complete, the mixture was cautiously heated on a steam bath with stirring for 2 hr. The reaction was cooled and treated cautiously with H2O until a solution resulted. The reaction was evaporated to dryness, and the dark residue was redissolved in H2O and filtered. The dark filtrate was heated on the steam bath with decolorizing carbon for 30 min and filtered to yield a pale yellow solution. Acetone was added to precipitate the product in two crops: 29.3 g white solid, mp 336°-339° dec., and 11.6 g (total 96% yield) pale-yellow solid, mp 330°-350° dec. (E. F. Rogers and H. J. Becker, U.S. Pat. No. 3,281,423 (1966) mp 348°-350° dec.)

reactant | 2-(2-hydroxyethyl)piperazine | 0.192 mol, 25.0 g | OCCC1NCCNC1 | C6H14N2O
reactant | SOCl2 | 125 ml | O=S(Cl)Cl | Cl2OS
reactant | H2O | O | H2O
reactant | Acetone | CC(=O)C | C3H6O
solvent | dry ice | C(=O)=O | CO2
product | 2-(2-Chloroethyl)piperazine dihydrochloride | 96% yield | Cl.Cl.ClCCC1NCCNC1 | InChI=1S/C6H13ClN2.2ClH/c7-2-1-6-5-8-3-4-9-6;;/h6,8-9H,1-5H2;2*1H
